Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo female with HTN, recent admission to ___ for pneumonia, 
recently completed levofloxacin therapy, presents with abdominal 
cramping and diarrhea for about one week.  Symptoms were mild 
initially, but diarrhea and crampiness worsened over the 
weekend.  Diarrhea is non-bloosy.  Some subjective chills, no 
fevers.  No nausea or vomiting.  Appetite diminished.  No sick 
contacts or potential raw food exposures.  Has some general 
weakness, but denies presyncope or chest pain.  Given these 
symptoms, patient was accompanied by granddaughter to ___ ___.

In ___,
VS:  97.2 86 135/62 20 94% 2L  -> 97% RA
CT abdomen/pelvis obtained, received morphine and loperamide, 
along with Flagyl, and was admitted for further evaluation

Upon arrival to the floor, patient noted improved crampiness 
after medication.  She had an appetite.  She had no other 
complaints.

 
Past Medical History:
Community acquired pneumonia ___
Hypertension
S/p appendectomy
S/p hemorrhoid surgery
s/p CCK
h/o PNA in ___
 
Social History:
___
Family History:
No FH premature coronary disease or sudden cardiac death.

 
Physical Exam:
VS:  97.9  146/76  HR 75  RR 18  93% RA
General:  elderly woman, appears younger than stated age
HEENT:  anicteric sclerae, clear oropharynx
Neck:  no lymphadenopathy
CV:  irregular rhythm, normal S1, S2, no murmurs
Pulm: bronchial breath sounds on right, comfortable, good 
airmovement, no rhonchi or rales
Abdomen:  soft, moderate tenderness throughout, no rebound or 
guarding

 
Pertinent Results:
CXR:
The lungs remain hyperinflated, suggesting chronic obstructive 
pulmonary disease.  Right basilar opacity is seen which may be 
due to partial right lower lobe collapse with possible small 
right pleural effusion.  No  focal consolidation or pleural 
effusion is seen in the left lung.  There is no evidence of 
pneumothorax.  Biapical pleural thickening is again seen.  The 
cardiac and mediastinal silhouettes are stable. The previously 
questioned nodular opacity projecting anteriorly just above the 
hilar level on the lateral view is not well seen on the current 
study and may have been artifactual.  My read:  appears similar 
to prior

CT abdomen/pelvis:
1. Diffuse colonic wall edema consistent with pancolitis, which 
could be infectious, inflammatory or less likely ischemic in 
etiology.  No evidence of obstruction or toxic megacolon.   
  
2.  Stable severe intra and extrahepatic biliary dilatation. 
  
3.  Collapse of the right lung lower lobe which is not fully 
imaged. Cannot exclude an obstructing lesion. Consider 
nonemergent evaluation with dedicated contrast enhanced chest 
CT. 
  
4. Sub-4 mm left lower lobe pulmonary nodule for which follow up 
CT in ___ year can be considered to document stability.

URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE EPI-<1
BLOOD-NEG NITRITE-NEG PROTEIN-TR GLUCOSE-NEG KETONE-10 
BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 LEUK-NEG

PLT COUNT-322

NEUTS-79.8* LYMPHS-10.7* MONOS-3.9 EOS-4.8* BASOS-0.8

WBC-10.4 RBC-4.25 HGB-12.8 HCT-41.0 MCV-97 MCH-30.0 MCHC-31.1 
RDW-12.3

GLUCOSE-103* UREA N-6 CREAT-0.5 SODIUM-141 POTASSIUM-3.9 
CHLORIDE-100 TOTAL CO2-31 ANION GAP-14

LACTATE-1.31

C.Diff Positive
 
Brief Hospital Course:
___ female with hx of recent antibiotics now presenting with 
abdominal cramps and diarrhea.  
She was given IVF, placed on flagyl and admitted to the medical 
floor.  She was found to be c/diff positive.  She had 
improvement throughout the day with only a few episodes of small 
amount of loose stool.  She felt that her discomfort was gone.  
She was eating and drinking well and therefore released as she 
is cared for by her granddaughter.

She is recommended to see her PCP ___ ___ days. Pcp was emailed 
regarding this. 

HTN- restarted home medications

Incidentally, the pt was noted to have a LLL pulmonary nodule of 
4mm.  She may have a repeat CT scan in ___ year.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Metoprolol Succinate XL 200 mg PO DAILY 

 
Discharge Medications:
1. Fluticasone Propionate NASAL 1 SPRY NU BID 
2. Metoprolol Succinate XL 200 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Amlodipine 5 mg PO DAILY 
5. MetRONIDAZOLE (FLagyl) 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C.difficile infection

 
Discharge Condition:
alert, interactive
ambulatory

 
Discharge Instructions:
You were diagnosed with inflammation in the colon, this is most 
from C.difficile infection
By chance, you were noted to have nodule in the lung. Your 
primary care physician may decide to check a repeat CT scan in 
the future to be sure that it does not change
 
Followup Instructions:
___